US06960598B2
a) 2-(4-Fluoro-3-methoxyphenyl)-4,4,5,5-tetramethyl[1,3,2]dioxaborolane
A mixture of 3-bromo-6-fluoroanisole (4.68 g, 3 mmol), potassium acetate (4.48 g, 46 mmol) and bis(pinacolato)diboron (6.67 g, 26 mmol) in dioxane (50 mL) was degassed via three “freeze-thaw” cycles. [1,1′-Bis(diphenyl-phosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (559 mg, 0.69 mmol) was added and the mixture was degassed as before, then was stirred at 90° C. overnight. After cooling to room temperature, the mixture was filtered, and the filtrate was concentrated in vacuo. The crude product was partitioned between 2 N sodium hydroxide solution (60 mL) and diethyl ether (60 mL). The separated aqueous layer was acidified to ˜pH 1 with conc. hydrochloric acid. An oil separated out, which solidified upon trituration. This was separated by filtration, and found to be 2-(4-fluoro-3-methoxy-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (4.11 g, 72%). δH (400 MHz, CDCl3) 1.34 (12H, s), 3.92 (3H, s), 7.08 (1H, dd, J 8.2 and 11.7), 7.35-7.40 (2H, m).

reactant | 3-bromo-6-fluoroanisole | 3 mmol, 4.68 g | BrC=1C=C(C(=CC1)F)OC | C7H6BrFO
reactant | potassium acetate | 46 mmol, 4.48 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 26 mmol, 6.67 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.69 mmol, 559 mg | ClCCl | CH2Cl2
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 2-(4-Fluoro-3-methoxyphenyl)-4,4,5,5-tetramethyl[1,3,2]dioxaborolane | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)OC | C13H18BFO3
